US04367238
A mixture of 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetonitrile (1.5 g) and potassium hydroxide (870 mg) in ethanol (40 ml) and water (20 ml) was refluxed under heating for 24 hours. The reaction mixture was evaporated under reduced pressure and the residue was dissolved in water. The aqueous solution was washed with diethyl ether, acidified with dil. hydrochloric acid and extracted with diethyl ether. The extract was washed with water, dried and then evaporated to give oily 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetic acid (1.4 g).

reactant | 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetonitrile | 1.5 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)CC#N | C15H12ClNOS
reactant | potassium hydroxide | 870 mg | [OH-].[K+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetic acid | 1.4 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)CC(=O)O | C15H13ClO3S
